US06300456B1
The 6-maleimidocaproic acid is reacted with excess thionyl chloride at 50° C. for three hours, and then the excess thionyl chloride is distilled off to leave 6-maleimidocaproic chloride.

reactant | 6-maleimidocaproic acid | C1(C=CC(N1CCCCCC(=O)O)=O)=O | C10H13NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-maleimidocaproic chloride | C1(C=CC(N1CCCCCC(=O)Cl)=O)=O | C10H12ClNO3
